US03951976
Preparation of Tetrahydro-1-(5-methylsulfinyl-1,3,4-thiadiazol-2-yl)-3-propargyl-6-[N-(2-methyl-4-bromophenyl)carbamoyloxy]-2(1H)-pyrimidinone
Tetrahydro-1-(5-methylsulfinyl-1,3,4-thiadiazol-2-yl)-3-propargyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole) and 2-methyl-4-bromophenyl isocyanate (3.5 ml; 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture is stirred and triethylamine (1 drop) is added thereo. After the addition is completed the reaction mixture is allowed to stand for a period of about 1 hour. The mixture is then washed with hexane and is dried to yield the desired product tetrahydro-1-(5-methylsulfinyl-1,3,4-thiadiazol-2-yl)-3-propargyl-6-[N-(2-methyl-4-bromophenyl)carbamoyloxy]-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methylsulfinyl-1,3,4-thiadiazol-2-yl)-3-propargyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | CS(=O)C1=NN=C(S1)N1C(N(CCC1O)CC#C)=O | C10H12N4O3S2
reactant | 2-methyl-4-bromophenyl isocyanate | 0.06 mole, 3.5 ml | CC1=C(C=CC(=C1)Br)N=C=O | C8H6BrNO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | tetrahydro-1-(5-methylsulfinyl-1,3,4-thiadiazol-2-yl)-3-propargyl-6-[N-(2-methyl-4-bromophenyl)carbamoyloxy]-2(1H)-pyrimidinone | CS(=O)C1=NN=C(S1)N1C(N(CCC1OC(NC1=C(C=C(C=C1)Br)C)=O)CC#C)=O | C18H18BrN5O4S2
